US05440044
A solution of 490 mg of 5-(6-bromo-2-pyridyl)-4-oxo-pentanoic acid methyl ester in 20 ml of methanol is mixed under ice cooling with 72 mg of sodium borohydride and stirred for 1 hour at 0-3° C. Then, 2 ml of acetone is added, stirred for 1 more hour and the reaction mixture is evaporated to dryness. The residue is distributed between water and ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 421 mg of 5-[(6-bromo-2-pyridyl)-methyl]-tetrahydrofuran-2-one is obtained as yellow oil.

reactant | 5-(6-bromo-2-pyridyl)-4-oxo-pentanoic acid methyl ester | 490 mg | COC(CCC(CC1=NC(=CC=C1)Br)=O)=O | C11H12BrNO3
reactant | sodium borohydride | 72 mg | [BH4-].[Na+]
reactant | acetone | 2 ml | CC(=O)C | C3H6O
solvent | methanol | 20 ml | CO | CH4O
product | 5-[(6-bromo-2-pyridyl)-methyl]-tetrahydrofuran-2-one | 421 mg | BrC1=CC=CC(=N1)CC1CCC(O1)=O | C10H10BrNO2
